US04698352
In 315 ml of dioxane was dissolved 10.5 g of methyl 1-(4-acetoxy-2-methylphenyl)-6-methyl-4-oxo-1,4-dihydronicotinate under heating, and 4.43 g of selenium dioxide was added thereto. They were reacted at 100° C. for 2 hours. After cooling the reaction mixture, to room temperature, selenium was removed by filtration, and then the solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (25:1 by volume) mixture) to obtain 7.9 g of methyl 1-(4-acetoxy-2-methylphenyl)-6-formyl-4-oxo-1,4-dihydronicotinate having a melting point of 216°-217° C.

reactant | methyl 1-(4-acetoxy-2-methylphenyl)-6-methyl-4-oxo-1,4-dihydronicotinate | 10.5 g | C(C)(=O)OC1=CC(=C(C=C1)N1C=C(C(=O)OC)C(C=C1C)=O)C | C17H17NO5
reactant | selenium dioxide | 4.43 g | [Se](=O)=O | O2Se
solvent | dioxane | 315 ml | O1CCOCC1 | C4H8O2
product | methyl 1-(4-acetoxy-2-methylphenyl)-6-formyl-4-oxo-1,4-dihydronicotinate | 7.9 g | C(C)(=O)OC1=CC(=C(C=C1)N1C=C(C(=O)OC)C(C=C1C=O)=O)C | C17H15NO6
